US08227485B2
ethyl 4-({[6-{[bis(3-methylbutyl)amino]carbonyl}-1-(3-piperidin-1-ylpropyl)-1H-benzimidazol-2-yl]carbonyl}amino)benzoate hydrochloride
Triethylamine (100 μL), ethyl 4-[(chloroacetyl)amino]benzoate (173 mg) and sulphur (12 mg) are successively added to a solution of 4-amino-N,N-bis(3-methylbutyl)-3-[(3-piperidin-1-ylpropyl)amino]benzamide (100 mg) in ethanol (3 ml), placed in a “Personal Chemistry®” reaction tube. The tube is sealed with a cap, placed in the “Personal Chemistry®” microwave and heated under magnetic stirring at 130° C. for 20 minutes. The ethanol is then evaporated off and water and dichloromethane are added to the residue. After decantation and extraction, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the compound by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/ethanol 85:15) produces the expected compound in the form of the free base. The corresponding hydrochloride salt is formed by the addition of a solution of 1N hydrochloric acid in diethyl ether. The precipitate obtained is filtered and dried in order to produce the expected monohydrochloride compound (80 mg, 51% yield).

reactant | Triethylamine | 100 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-[(chloroacetyl)amino]benzoate | 173 mg | ClCC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C11H12ClNO3
reactant | sulphur | 12 mg | [S] | S
reactant | 4-amino-N,N-bis(3-methylbutyl)-3-[(3-piperidin-1-ylpropyl)amino]benzamide | 100 mg | NC1=C(C=C(C(=O)N(CCC(C)C)CCC(C)C)C=C1)NCCCN1CCCCC1 | C25H44N4O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 4-({[6-{[bis(3-methylbutyl)amino]carbonyl}-1-(3-piperidin-1-ylpropyl)-1H-benzimidazol-2-yl]carbonyl}amino)benzoate hydrochloride | Cl.CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)C(=O)NC2=CC=C(C(=O)OCC)C=C2)CCCN2CCCCC2)C1)CCC(C)C)C | InChI=1S/C36H51N5O4.ClH/c1-6-45-36(44)28-11-14-30(15-12-28)37-34(42)33-38-31-16-13-29(35(43)40(23-17-26(2)3)24-18-27(4)5)25-32(31)41(33)22-10-21-39-19-8-7-9-20-39;/h11-16,25-27H,6-10,17-24H2,1-5H3,(H,37,42);1H
